US04965284
N-Butyl-3-methyl-N-(phenylmethyl)butaneamide
A stirred solution of 6.0 g of N-benzyl-n-butylamine in 3 ml of methylene chloride containing 4.5 ml of triethylamine, under inert gas, was cooled to 0° C. and treated by the dropwise addition of 4.27 ml of iso-valerylchloride. Another 3 ml of methylene chloride was added and stirred at ambient temperature for 18 hours. The insolubles were filtered and the cake washed with methylene chloride. The combined filtrates were washed with water, brine and dried. Evaporation of the volatiles gave a brown oil which was purified by chromatography on silica gel using 1:8 ethyl acetate:-hexanes giving 7.75 g of the desired product as a yellowish oil.

reactant | N-benzyl-n-butylamine | 6.0 g | C(C1=CC=CC=C1)NCCCC | C11H17N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | iso-valerylchloride | 4.27 ml | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-Butyl-3-methyl-N-(phenylmethyl)butaneamide | C(CCC)N(C(CC(C)C)=O)CC1=CC=CC=C1 | C16H25NO
